US05599980
216.5 g of 3-chloro-2,4-difluoro-benzotrifluoride in 440 ml of methylene chloride are initially introduced into a stirred apparatus, and 150 g of AlCl3 are introduced in small portions. The reaction is slightly exothermic. When the addition has ended, the mixture is heated under reflux (42° C.) for 2 hours, cooled and poured onto 1 1 of ice-water. After intensive thorough mixing, the mixture is filtered over a suction filter and the organic phase is then separated off. After drying, the methylene chloride phase is distilled. 231 g of 3-chloro-2,4-difluoro-benzotrichloride with a boiling range of 124°-126° C./18 mbar are obtained.

reactant | 3-chloro-2,4-difluoro-benzotrifluoride | 216.5 g | ClC=1C(=C(C=CC1F)C(F)(F)F)F | C7H2ClF5
reactant | AlCl3 | 150 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | methylene chloride | 440 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-2,4-difluoro-benzotrichloride | 231 g | ClC=1C(=C(C=CC1F)C(Cl)(Cl)Cl)F | C7H2Cl4F2
